US09290517B2
5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-amine
DBU (0.204 ml, 1.354 mmol) was added to a stirred mixture of 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine (232 mg, 0.451 mmol) and ammonium acetate (348 mg, 4.51 mmol) in DMF (2 ml), and the mixture was stirred at room temperature overnight. Water (30 mL) was added and the mixture was extracted with ethyl acetate (2×30 mL). The combined organic fractions were washed with brine (saturated, 20 mL), dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure. The resulting residue was purified by preparative HPLC Reverse phase (C-18), eluting with acetonitrile/water+0.1% TFA. The combined fractions was concentrated, dissolved in MeOH, neutralized with NH4OH, concentrated, redissolved in MeOH, filtered through silica gel pad, washed with DCM:MeOH:NH4OH(10:1:0.1) and dried to give title compound. LC-MS: calculated for C24H27ClN4OSi 450.16 observed m/e: 451.13 (M+H)+ (Rt 1.25/2 min).

reactant | DBU | 1.354 mmol, 0.204 ml | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 5-([1,1′-biphenyl]-4-yl)-6-chloro-2-(methylsulfonyl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridine | 0.451 mmol, 232 mg | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)S(=O)(=O)C)Cl)C2=CC=CC=C2 | C25H28ClN3O3SSi
reactant | ammonium acetate | 4.51 mmol, 348 mg | C(C)(=O)[O-].[NH4+]
reactant | Water | 30 mL | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 5-([1,1′-biphenyl]-4-yl)-6-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazo[4,5-b]pyridin-2-amine | C1(=CC=C(C=C1)C1=C(C=C2C(=N1)N=C(N2COCC[Si](C)(C)C)N)Cl)C2=CC=CC=C2 | C24H27ClN4OSi
